US05891871
Methyl 2-(2-(4-nitrobenzoyl)-4,5-methylenedioxyphenyl)propionate
To a mixture of methyl 2-(3,4-methylenedioxyphenyl)propionate (1.0 g, 4.8 mmol), 4-nitrobenzoic acid (1.6 g, 9.6 mmol) and 1,2-dichloroethane (35 mL) was added P2O5 (4 g) and the mixture obtained was heated to reflux for 12 h. Water was added to the reaction mixture and it was neutralized to pH=7-8 by NaHCO3 solution. It was extracted with EtOAc and washed with brine. The product (211 mg, 12.3%) was obtained by a chromatographic purification (EtOAc:Hex=1:4). 1H NMR (CDCl3) 8.31 (d, J=8.7, 2H), 7.94 (d, J=8.7, 2H), 7.00 (s, 1H), 6.73 (s, 1H), 6.06 (s, 2H) 4.15 (q, J=7.1, 1H), 3.59 (s, 3H), 1.51 (d, J=7.1, 3H).

reactant | methyl 2-(3,4-methylenedioxyphenyl)propionate | 4.8 mmol, 1.0 g | C1OC=2C=C(C=CC2O1)C(C(=O)OC)C | C11H12O4
reactant | 4-nitrobenzoic acid | 9.6 mmol, 1.6 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | P2O5 | 4 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Water | O | H2O
solvent | 1,2-dichloroethane | 35 mL | ClCCCl | C2H4Cl2
product | Methyl 2-(2-(4-nitrobenzoyl)-4,5-methylenedioxyphenyl)propionate | 211 mg, 12.3% | [N+](=O)([O-])C1=CC=C(C(=O)C2=C(C=C3C(=C2)OCO3)C(C(=O)OC)C)C=C1 | C18H15NO7
